US05660974
N-isopropylhydroxylamine (13.74 g, 90%, 165 mmol), 4-carbomethoxybenzyl chloride (30.4 g, 165 mmol) and Na2CO3 (18.0 g, 170 mmol) were dissolved in DMF (150 mL) and stirred at 60° C. under Argon for 20 h. The reaction mixture was filtered, concentrated, diluted with CHCl3 (300 mL), washed with water (3×200 mL), dried with MgSO4, concentrated, dissolved in EtOAC (10 mL) and chromatographed on an Si gel eluting with 4:1 hexanes/EtOAc to give 15.2 g (41%) N-isopropyl-N-(4-carbomethoxybenzyl)-hydroxylamine. 1H NMR (DMSO-d6) δ 7.85 (d, J=8.2 Hz, 2), 7.43 (d, J=8.2 Hz, 2), 7.44 (s, 1), 3.80 (s, 3), 3.73 (s, 1), 2.85 (sept, J=6.3 Hz, 1), 1.02 (d, J=6.3 Hz, 6). 13C{1H} NMR (DMSO-d6) δ 166.2, 145.6, 129.0, 128.8, 127.8, 59.3, 56.8, 52.0, 18.4.

reactant | N-isopropylhydroxylamine | 165 mmol, 13.74 g | C(C)(C)NO | C3H9NO
reactant | 4-carbomethoxybenzyl chloride | 165 mmol, 30.4 g | C(=O)(OC)C1=CC=C(CCl)C=C1 | C9H9ClO2
reactant | Na2CO3 | 170 mmol, 18.0 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | N-isopropyl-N-(4-carbomethoxybenzyl)-hydroxylamine | 15.2 g, 41% | C(C)(C)N(O)CC1=CC=C(C=C1)C(=O)OC | C12H17NO3
